US06743808B1
To a solution of 5-chloro-1H-indole (20 g) in N-methyl-2-pyrrolidone (450 mL) were added potassium carbonate (82 g), CuBr (7.5 g), and Cu bronze (3 g). The mixture was heated to 140° C. and 4-bromopyridine, hydrochloride (22 9). The mixture was heated for 1 hour at 150° C. and further 4-bromopyridine, hydrochloride (15 g) was added. This procedure was repeated twice and the mixture was finally heated overnight at 150° C. After cooling precipitated inorganic salts were filtered off. Water (2 L), ethyl acetate (500 mL), and diluted aqueous ammonia (200 mL) were added. Undissolved material was filtered off and discarded. The organic phase was worked-up as above affording 34 g of 5-chloro-1-(4-pyridyl)-1H-indole with mp: 153-155° C. All of this product, without further purification, was dissolved in dimethoxyethane (350 mL) at 60-70° C. Methyliodide (14 mL) was added and the mixture was heated at reflux for 7 hours. After cooling the precipitated quaternized pyridinium salt was filtered off and washed with dimethoxyethane. Yield 32 g. Mp: 257-260° C. All of the pyridinium salt was suspended in ethanol (450 mL) and water (50 mL). NaBH4 (16 g) was added in small portions during 1.5 hours with stirring. After stirring for another 1.5 hours most of the ethanol was evaporated at room temperature in vacuo. Ethyl acetate (300 mL) and water (500 mL) were added and the organic was was worked up as previously. Yield of 5-chloro-1-(1-methyl-1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole, 17 g as an oil. To a solution of the tetrahydropyridinyl (15 g) derivative in glacial acetic acid (150 mL) was added PtO2 and the mixture was hydrogenated in a Parr apparatus at 3 ato for 7 hours. The catalyst was filtered off, most of the acetic acid evaporated in vacuo and finally the crude 5-chloro-1-(1-methyl-4-piperidinyl)-1H-indole was extracted with ethyl acetate from an alkaline aqueous solution. Yield 13 g as an oil. Any remaining water in this crude product (10 g) was removed by evaporation with toluene. Finally the oil was dissolved in 1,1,1-trichloroethane (200 mL). At reflux temperature 2,2,2-trichloroethyl chloroformate (6.5 mL) dissolved in 1,1,1-trichloroethane (20 mL) was added dropwise. The mixture was refluxed for another 2 hours, sodium carbonate (2 g) was added and reflux continued for 0.5 hours. After cooling the mixture was filtered through silicagel (eluted with dichloromethane). Yield 10 g of crude carbamate derivative. To a solution of the carbamate (6 g) in 90% aqueous acetic acid (110 mL) was added finely powdered Zn (12 g) in small portions at 45° C. during 1 hour. The mixture was heated for another hour at 50° C., Zn-salts were filtered off and most of the acetic acid evaporated in vacuo. The remaining oil was dissolved in water (200 mL) and ethyl acetate (200 mL). The pH of the aqueous phase was adjusted >9 by adding diluted aqueous ammonia. The organic phase was finally worked-up as previously yielding 3.5 g of crude title product 17a as an oil which was used without further purification to prepare compound 10h.

reactant | 5-chloro-1H-indole | 20 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | potassium carbonate | 82 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromopyridine, hydrochloride | Cl.BrC1=CC=NC=C1
reactant | 4-bromopyridine, hydrochloride | 15 g | Cl.BrC1=CC=NC=C1
solvent | N-methyl-2-pyrrolidone | 450 mL | CN1C(CCC1)=O | C5H9NO
product | 5-chloro-1-(4-pyridyl)-1H-indole | 34 g | ClC=1C=C2C=CN(C2=CC1)C1=CC=NC=C1 | C13H9ClN2
